US04923857
To a solution of 1-benzyl-5-t-butyldimethylsilyloxymethyl-2-hydroxymethylpyrrolidine (6.3 g) in methanol (63 ml) was added palladium hydroxide on carbon (630 mg) under nitrogen atmosphere. The apparatus was evacuated to remove nitrogen, then filled with hydrogen, and the mixture was stirred under hydrogen atmosphere until 19 mmol of hydrogen was absorbed. The palladium hydroxide on carbon was filtered off and the solvent was removed under reduced pressure to give 5-t-butyldimethylsilyloxymethyl-2-hydroxymethylpyrrolidine (4.0 g). To a solution of this residue in tetrahydrofuran (60 ml) and water (30 ml) were added sodium bicarbonate (4.10 g) and then allyl chloroformate (1.42 ml) at room temperature. After stirring for 2 hours, sodium bicarbonate (2.1 g) and allyloxycarbonyl chloride (1.42 ml) was added. After stirring for an hour, ethyl acetate (100 ml) and water (50 ml) were added and the aqueous layer was separated and extracted twice with ethyl acetate. The combined organic layer was washed with 1N hydrochloric acid, saturated aqueous sodium bicarbonate, water and brine successively, dried over magnesium sulfate and evaporated under reduced pressure. The residue was column chromatographed on silica gel (eluent:hexane/ethyl acetate, 9:1-4:1 V/V) to give 1-allyloxycarbonyl-5-t- butyldimethylsilyloxymethyl-2-hydroxymethylpyrrolidine (4.91 g).

reactant | 1-benzyl-5-t-butyldimethylsilyloxymethyl-2-hydroxymethylpyrrolidine | 6.3 g | C(C1=CC=CC=C1)N1C(CCC1CO[Si](C)(C)C(C)(C)C)CO | C19H33NO2Si
reactant | hydrogen | 19 mmol | [H][H] | H2
solvent | methanol | 63 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 630 mg | [OH-].[OH-].[Pd+2]
product | 5-t-butyldimethylsilyloxymethyl-2-hydroxymethylpyrrolidine | 4.0 g | [Si](C)(C)(C(C)(C)C)OCC1CCC(N1)CO | C12H27NO2Si
